** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/osc_tb_tran.sch
**.subckt osc_tb_tran
VDD net6 0 3.3
I1 net2 0 150u
XM3 out2a net2 net1 net1 sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM2 g1a net2 net1 net1 sg13_hv_pmos w=1u l=2.0u ng=1 m=1 mm_ok=1
XM4 g2a net2 net1 net1 sg13_hv_pmos w=1.0u l=2.0u ng=1 m=1 mm_ok=1
XM5 out1a net2 net1 net1 sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM6 net2 net2 net1 net1 sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XC1 g1a out2a cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 out1a g2a cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM8 out2a g2a 0 0 sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM1 g2a g2a 0 0 sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM12 out1a g1a 0 0 sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM11 g1a g1a 0 0 sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
VDD1 net3 0 3.3
I2 net4 0 150u
XM7 out2b net4 net3 net3 sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM9 g1b net4 net3 net3 sg13_hv_pmos w=1u l=2.0u ng=1 m=1 mm_ok=1
XM10 g2b net4 net3 net3 sg13_hv_pmos w=1.0u l=2.0u ng=1 m=1 mm_ok=1
XM13 out1b net4 net3 net3 sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM14 net4 net4 net3 net3 sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XC3 g1b out2b cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC4 out1b g2b cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM15 out2b g2b 0 0 sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM16 g2b g2b 0 0 sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM17 out1b g1b 0 0 sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM18 g1b g1b 0 0 sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
x1 net3 out1b_dec nout1 0 hv_inverter_40u
XM19 out1b_dec g1b 0 0 sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM20 out1b_dec net4 net5 net5 sg13_hv_pmos w=10.0u l=2u ng=1 m=1 mm_ok=1
vout1 net3 net5 0
.save i(vout1)
vout2 net6 net1 0
.save i(vout2)
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerCAP.lib cap_typ

.include /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice



* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param period=60n
.csparam period=period
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.probe alli
.control

save all
set appendwrite

tran 100p 60n
remzerovec

save all
set appendwrite

write osc_tb_tran.raw
set appendwrite

* Plotting
*plot g1 out1a g2 out2a out1b+4 out2b+4
*plot xm12:d#branch xm8:d#branch xc1#branch xc2#branch
plot out1a out2a out1b_dec+8 nout1+12 out1b+4 out2b+4
plot i(vout1) i(vout2) mean(i(vout2))

*quit
.endc




.ic v(out1a)=3.3 v(out1b)=3.3


**** end user architecture code
**.ends

* expanding   symbol:  hv_inverter_40u.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sch
.subckt hv_inverter_40u VDD in out VSS
*.ipin in
*.iopin VDD
*.iopin VSS
*.opin out
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends

.end
